US06124354
3-Quinuclidinyl 1-(2-bromophenyl)cyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36. 1-(2-Bromophenyl)cyclobutanecarbonyl chloride, prepared from the compound prepared in Example 9, was reacted with 3-quinuclidinol at 75° C. overnight. The crude was chromatographed on silica gel using EtOAc-Et3N 90:10 as eluent. The yield was 0.2 g (6%); mp 194-200° C.; 1H NMR (CD3OD) δ 1.47-1.74 (m, 2H), 1.82-2.50 (m, 3H), 2.18-2.35 (m, 2H), 2.54-2.71 (m, 2H), 2.79-2.97 (m, 3H), 3.11-3.27 (m, 4H), 3.67-3.75 (m, 1H), 5.10 (m, 1H), 7.16-7.22 (m, 1H), 7.37-7.49 (m, 2H), 7.57 (dd, 1H). Anal. (C18H22BrNO2.HCl) C, H, N.

reactant | 1-(2-Bromophenyl)cyclobutanecarbonyl chloride | BrC1=C(C=CC=C1)C1(CCC1)C(=O)Cl | C11H10BrClO
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
product | 3-Quinuclidinyl 1-(2-bromophenyl)cyclobutanecarboxylate Hydrochloride | Cl.BrC1=C(C=CC=C1)C1(CCC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C18H22BrNO2.ClH/c19-15-5-2-1-4-14(15)18(8-3-9-18)17(21)22-16-12-20-10-6-13(16)7-11-20;/h1-2,4-5,13,16H,3,6-12H2;1H
